US05679821
The same procedure as in Example 1 was followed to conduct a reaction, except that p-toluenesulfonic acid was used in place of Ti(OBu)4. After completion of the reaction, the reaction product was analyzed by GC. As a result, it was thus found that triethoxysilylpropyl acrylate as the objective compound had been obtained in a yield of 41% (in terms of triethoxysilylpropyl acetate).

reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | triethoxysilylpropyl acrylate | C(C=C)(=O)OCCC[Si](OCC)(OCC)OCC | C12H24O5Si
product | triethoxysilylpropyl acetate | yield of 41% | C(C)(=O)OCCC[Si](OCC)(OCC)OCC | C11H24O5Si
